US07030139B2
12A: 4-[(Cyclopropylmethyl)amino]-N,N-diethyl-3-nitrobenzamide.
Following general procedure 2B: N,N-diethyl-4-fluoro-3-nitrobenzamide (0.823 g, 3.42 mmol) and cyclopropylmethanamine (0.39 mL, 4.50 mmol) in 80% aqueous ethanol (17 mL) were stirred at 85° C. for 16 h. The crude product (1.00 g), an orange solid, was used in subsequent steps. 1H-NMR (CD3OD): δ 8.23 (d, J=2.0 Hz, 1H), 7.55 (dd, J=9.2 Hz, J=2.0 Hz, 1H), 7.09 (d, J=9.2 Hz, 1H), 3.47 (br s, 3H), 3.31 (q, J=2.0 Hz, 2H), 3.27 (d, J=6.4 Hz, 2H), 1.23 (overlapping t and m, J=7.0 Hz, 7H), 0.68–0.60 (m, 2H), 0.40–0.34 (m, 2H). MS (ESI) (M+H)+=292.

reactant | N,N-diethyl-4-fluoro-3-nitrobenzamide | 3.42 mmol, 0.823 g | C(C)N(C(C1=CC(=C(C=C1)F)[N+](=O)[O-])=O)CC | C11H13FN2O3
reactant | cyclopropylmethanamine | 4.50 mmol, 0.39 mL | C1(CC1)CN | C4H9N
solvent | ethanol | 17 mL | C(C)O | C2H6O
product | 4-[(Cyclopropylmethyl)amino]-N,N-diethyl-3-nitrobenzamide | C1(CC1)CNC1=C(C=C(C(=O)N(CC)CC)C=C1)[N+](=O)[O-] | C15H21N3O3
